US05366972
Sodium hydride (0.9 g of a 50% dispersion in mineral oil) was added to a solution of N-(2-bromo-6-methoxy-3-pyridinyl)-2-ethylamino-N-methyl-3-pyridinecarboxamide (1.4 g) in xylene (20 ml) and the mixture refluxed for 2 hours. After cooling, the mixture was quenched with methanol, diluted with ethyl acetate, and washed with water. The organic phase was dried (anhydrous magnesium sulfate), concentrated, and purified on a silica gel column (ethyl acetate/hexane, 1:4) to give fairly pure product, which was then recrystallized twice from ethyl acetate/hexane to give 0.52 g of pure 5,11-dihydro-11-ethyl-2-methoxy-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one, m.p. 116°-118° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | N-(2-bromo-6-methoxy-3-pyridinyl)-2-ethylamino-N-methyl-3-pyridinecarboxamide | 1.4 g | BrC1=NC(=CC=C1N(C(=O)C=1C(=NC=CC1)NCC)C)OC | C15H17BrN4O2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,11-dihydro-11-ethyl-2-methoxy-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.52 g | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OC | C15H16N4O2
